US06441015B2
N-Cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-hydroxy-N-methyl-benzamide was prepared from N-cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-N-methyl-benzamide according to a procedure analogous to that described in EXAMPLE 2, Step B. Boron tribromide (1M in dichloromethane, 2.0 equiv) was used. After water addition, the mixture was extracted with dichloromethane (3×10 ml). The combined organic phases were dried over anhydrous Na2SO4, filtered, and concentrated. The title product of Step E was used in the next step without purification. MS (APCI+) Calc.: 370.4, Found: 371.1 (M+1).

reactant | N-cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-N-methyl-benzamide | C1(CCC1)N(C(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC)=O)C | C21H24N2O5
reactant | Boron tribromide | 1M, 2.0 equiv | B(Br)(Br)Br | BBr3
solvent | water | O | H2O
product | N-Cyclobutyl-5-(2,6-dimethyl-4-nitro-phenoxy)-2-hydroxy-N-methyl-benzamide | C1(CCC1)N(C(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)O)=O)C | C20H22N2O5
